US04031093
B: 5-Chloro-2-ethoxybenzamidine hydrochloride
If the procedure of Preparation 10 is repeated with the 2-n-butoxybenzamide used therein replaced by an equimolar amount of 5-chloro-2-ethoxybenzamide, there is produced the title product, m.p. 227° with decomposition.

reactant | 2-n-butoxybenzamide | C(CCC)OC1=C(C(=O)N)C=CC=C1 | C11H15NO2
reactant | 5-chloro-2-ethoxybenzamide | ClC=1C=CC(=C(C(=O)N)C1)OCC | C9H10ClNO2
product | 5-Chloro-2-ethoxybenzamidine hydrochloride | Cl.ClC=1C=CC(=C(C(=N)N)C1)OCC | InChI=1S/C9H11ClN2O.ClH/c1-2-13-8-4-3-6(10)5-7(8)9(11)12;/h3-5H,2H2,1H3,(H3,11,12);1H
